US05270465
b) 2-Benzylthiomethyl-4(3H)-pteridinone
Obtained using the procedure described in section b of Example 9, starting with 5.4 g (0.019 mole) of 4-amino-2-(benzylthiomethyl)pteridine in 400 ml of 5% aqueous sodium hydroxide. Reaction time: 7 hours at 85° C. Yld: 1.7 g (31%), m.p. 224°-226° C. (ethanol/N,N-dimethylformamide).

reactant | 4-amino-2-(benzylthiomethyl)pteridine | 0.019 mole, 5.4 g | NC1=NC(=NC2=NC=CN=C12)CSCC1=CC=CC=C1 | C14H13N5S
reactant | ethanol N,N-dimethylformamide | C(C)O.CN(C=O)C
solvent | sodium hydroxide | 400 ml | [OH-].[Na+]
product | 2-Benzylthiomethyl-4(3H)-pteridinone | C(C1=CC=CC=C1)SCC1=NC2=NC=CN=C2C(N1)=O | C14H12N4OS
